US05141930
To a solution of 3.0 g of 5-(4-chlorobutyl)-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepin-4-one in 20 ml of acetic acid was added dropwise a solution of 2.1 g of bromine in 5 ml of acetic acid for 10 minutes. After the mixture was stirred at room temperature for 3 hours, the mixture was poured into chilled water and extracted with chloroform. The extract was washed with water, dried over magnesium sulfate and then concentrated under reduced pressure to give 4.0 g of 2-bromo-5-(4-chlorobutyl)-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepin-4-one as a pale brown oil. The obtained compound was employed in the subsequent reaction without purification.

reactant | 5-(4-chlorobutyl)-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepin-4-one | 3.0 g | ClCCCCN1C(C2=C(CCC1)SC=C2)=O | C12H16ClNOS
reactant | bromine | 2.1 g | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-5-(4-chlorobutyl)-5,6,7,8-tetrahydro-4H-thieno[3,2-c]azepin-4-one | 4.0 g | BrC1=CC=2C(N(CCCC2S1)CCCCCl)=O | C12H15BrClNOS
